US07468364B2
Sodium (5R,6S)-3-(4-cyanophenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.2 g) in dry DMF (4.0 ml) was ice-cooled. Thereto ware added tetrabutylammonium iodide (0.53 g), and 4-(2-chloroethyl)-morpholine (1M toluene, 8 mL), and the mixture was stirred. Thirty minutes later, after removal of the bath the mixture was stirred for 48 hours and thereto was added ethyl acetate. The mixture was washed succesively with aqueous phosphate buffer (pH 6.86), water and brine. The organic layer was dried over sodium sulfate, concentrated, and the residue was purified with silica gel column chromatography (chloroform:methanol=1:0→10:1) to give 2-morpholin-4-ylethyl(5R,6S)-3-(4-cyanophenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.10 g, yield 33%).

reactant | Sodium (5R,6S)-3-(4-cyanophenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.2 g | C(#N)C1=CC=C(C=C1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)[O-].[Na+]
reactant | 4-(2-chloroethyl)-morpholine | 1M, 8 mL | ClCCN1CCOCC1 | C6H12ClNO
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.53 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-morpholin-4-ylethyl(5R,6S)-3-(4-cyanophenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.10 g, yield 33% | C(#N)C1=CC=C(C=C1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCCN1CCOCC1 | C22H25N3O5
